US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-(4-hydroxy-2-methyl-benzyl)-butyric acid ethyl ester (example 125 c]) was reacted with [rac]-cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol (example 121 a]) in the presence of tributylphosphine and N,N,N′,N′-tetramethyl azodicarboxamide to yield 2-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-benzyl)-butyric acid ethyl ester as a mixture of two diastereomeric racemates as light yellow liquid.

reactant | [rac]-2-(4-hydroxy-2-methyl-benzyl)-butyric acid ethyl ester | C(C)OC(C(CC)CC1=C(C=C(C=C1)O)C)=O | C14H20O3
reactant | [rac]-cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | C1(CC1)C(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C15H14F3NOS
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
product | 2-(4-{cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-benzyl)-butyric acid ethyl ester | C(C)OC(C(CC)CC1=C(C=C(C=C1)OC(C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1CC1)C)=O | C29H32F3NO3S
